Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Morphine / 
Lisinopril
 
Attending: ___.
 
Chief Complaint:
Emesis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo woman with GERD, hiatial hernia s/p fundoplication, 
Schatzki's ring, Hep C (stage II-III fibrosis per Bx ___, 
polysubstance abuse, COPD/emphysema, PVD, HTN, HLD who presents 
to the ED with dark emesis x 3 over the past three days, dark 
tarry stools, and malaise. The patient's symptoms began three 
days prior to admission, when she experienced nausea and had one 
episode of dark emesis. She is unclear if the emesis contained 
blood or merely dark food products. Over the subsequent two 
days, she had two similar episodes of emesis. She also describes 
the onset of "pasty," black stools during this time period. She 
states that she has had stools with similar appearance in the 
past, but not for several months. There is associated right 
upper quadrant abdominal pain, though she is unable to provide a 
time course for this pain. The patient has been taking her iron 
pills regularly. She denies any NSAID use, but has been taking a 
daily baby aspirin.
.
The patient also reports intermittent L sided CP which is 
relieved with NTG. The pain is in the ___ her chest, 
non-radiating, and non-exertional. There is no associated SOB, 
diaphoresis.
.  
In the ED, initial vs were: T96.6 HR 85 BP 155/93 RR17 100% RA.  
NG lavage w/ 350cc was clear (small blood flecks, no bile), 
guiac negative.  She remained fatigued and complained of "vague 
pain." She underwent Type and Cross, was given Pantoprazole 40 
mg IV x1 and no IVF.  She is being admitted for episodes of 
hematemesis/hemoptysis.  VS on transfer 96.8F 73 160/86 18 
100%RA.
.  
On the floor, the patient continued to report symptoms of vague 
pain in her abdomen and chest. This pain is unchanged from 
earlier in the day. She has not had an episode of emesis since 
earlier this AM. She is asking to eat dinner. She denies any 
current nausea, diarrhea, constipation, fevers, chills.
.  

 
Past Medical History:
PMH:
COPD (never formally dx by spirometry, bullous emphysema on CT 
imaging ___
Hepatitis C (stage ___ fibrosis per liver bx ___
HTN (poorly controlled at b/l, non compliant with meds; P-MIBI 
negative in ___, stress-Echo ___ EF 60%, trivial MR, no 
inducible ischemia)
HLD
Peripheral neuropathy
PVD (L subclavian stenosis seen on CTA ___ and MRA ___
and RE arterial insufficiency; ABI showing minimal disease below 
the knee at the tibial level on ___
Depression, requiring hospitalization in past
h/o polysubstance abuse, including cocaine and iv drug use, and 
on-going alcohol and tobacco use
Hiatal hernia, s/p nissen fundoplication
GERD
esophageal stricture (Schatzkis ring)
Fe def anemia
Fibromyalgia
Cervical spondylosis
Stress incontinence
Osteoarthritis
 
Social History:
___
Family History:
Hx of early CAD  mother had MI at age ___, grandmother died of 
MI at ___.

 
Physical Exam:
Vitals: T: 96.6 BP: 161/95 P: 66  R: 18  O2: 100%RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes appreciated
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Abdomen: soft, non-distended, bowel sounds present, tenderness 
in RUQ, voluntary guarding in all 4 quadrants
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: CNs2-12 intact, motor function grossly normal  

 
Pertinent Results:
Admission Labs:
___ 10:53AM BLOOD WBC-10.4 RBC-4.37 Hgb-13.6# Hct-39.1 
MCV-90# MCH-31.1# MCHC-34.7 RDW-17.1* Plt ___
___ 10:53AM BLOOD Neuts-78.8* Lymphs-17.4* Monos-2.6 
Eos-1.0 Baso-0.3
___ 10:53AM BLOOD ___ PTT-23.9 ___
___ 10:53AM BLOOD Glucose-93 UreaN-13 Creat-0.8 Na-140 
K-5.3* Cl-108 HCO3-20* AnGap-17
___ 10:53AM BLOOD ALT-70* AST-79* AlkPhos-116* TotBili-0.3
___ 10:53AM BLOOD cTropnT-<0.01
___ 10:53AM BLOOD Calcium-9.6 Phos-3.4 Mg-2.1
___ 11:07AM BLOOD Lactate-1.5 K-4.3
.
Discharge Labs:
___ 12:50PM BLOOD Hct-38.7
___ 06:25AM BLOOD Glucose-74 UreaN-19 Creat-0.8 Na-141 
K-4.3 Cl-106 HCO3-25 AnGap-14
___ 06:25AM BLOOD ALT-13 AST-22 AlkPhos-53 TotBili-0.2
___ 06:25AM BLOOD Calcium-8.9 Phos-3.5 Mg-2.2
.
Imaging: IMPRESSION: No acute cardiopulmonary process.
.

 
Brief Hospital Course:
___ with GERD, hiatial hernia s/p fundoplication, Schatzki's 
ring, Hep C (stage II-III fibrosis per Bx ___, polysubstance 
abuse, COPD/emphysema who presents to the ED with dark 
emesisover the past three days, tarry stools, and malaise.
. 
#. Emesis/?Hematemesis: NG lavage in ED negative for active 
bleeding. Guiac negative in ED and on floor. Associated sx of 
malaise, myalgias, cough, sore throat suggestive of viral 
illness, likely gastroenteritis. Pt does have hx of GERD, 
hiatial hernia s/p fundoplication, Schatzki's ring, but EGD 
earlier this year was unrevealing. No evidence of PUD, 
stricture, or varices. Patient was initially kept NPO and 
maintained on IV PPI. Her HCT remained stable, and her diet was 
advanced. She tolerated POs well. Remained hemodynamically 
stable throughout her hospital course. She was discharged home 
with GI follow-up in the following weeks.
. 
#. Tarry stools: Patient reports several episodes of tarry 
stools at home. Guiac negative in hospital. HCT stable. Patient 
does take iron supplementation at home, and has detected black 
coloration to her stool in past. Low suspicion for active 
bleeding.
.
#. Chest Pain: Atypical for cardiac etiology. Trop negative X 2. 
Normal stress test in ___. EKG shows NSR without ischemic 
changes. Aspirin was held in setting of tarry stools, but 
re-started at the time of discharge.
.
#. COPD: Stable. Reports no worsening of SOB. Continued spiriva, 
advair, albuterol.
.
#. HTN: Continued valsartan once taking POs.
.
#. Transaminitis: Chronic, likely ___ hep C. Stable. 
.  

 
Medications on Admission:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for wheeze.  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. fexofenadine 60 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) INH Inhalation BID (2 times a day).  
5. multivitamin Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. nifedipine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
7. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
11. valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
13. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: Two 
(2) Tablet, Delayed Release (E.C.) PO twice a day.  
14. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
15. Iron (ferrous sulfate) 325 mg (65 mg Iron) Tablet Sig: One 
(1) Tablet PO once a day.  

 
Discharge Medications:
1. albuterol sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
___ Puffs Inhalation Q4H (every 4 hours) as needed for wheeze.  
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
3. fexofenadine 60 mg Tablet Sig: Three (3) Tablet PO DAILY 
(Daily).  
4. fluticasone-salmeterol 500-50 mcg/dose Disk with Device Sig: 
One (1) INH Inhalation BID (2 times a day).  
5. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. nifedipine 30 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily).  
7. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN (as needed) as needed for chest pain.  

8. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
9. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. tiotropium bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
11. valsartan 160 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. folic acid 1 mg Tablet Sig: One (1) Tablet PO once a day.  
13. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: Two 
(2) Tablet, Delayed Release (E.C.) PO twice a day.  
14. aspirin 81 mg Tablet Sig: One (1) Tablet PO once a day.  
15. Iron (ferrous sulfate) 325 mg (65 mg Iron) Tablet Sig: One 
(1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Gastroenteritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital after episodes of 
nausea/vomiting at your home. Your symptoms improved during the 
course of your hospital stay. There was no evidence of active 
bleeding during your stay. The decision was made not to perform 
any invasive studies, though you will need to follow-up with 
your PCP and the GI doctors.
.
Please continue all medications that you were taking prior to 
admission. Please do not drink alcohol, as this may be 
contributing to the symptoms you presented with.
.
Should you have any signs or symptoms concerning to you, please 
call your doctor or go to the nearest emergency room.

 
Followup Instructions:
___